US04053615
16.8 Grams of phthalic anhydride and 21.6 grams of 4-amino-1-benzyl-piperidine were stirred together while they were being heated in an oil bath at 150° C. for 30 minutes. On cooling, the resulting glassy solid was heated with 400 milliliters of methanol to give 26.5 grams of 1-benzyl-4-phthalimidopiperidine. Melting point: 154°-7° C.

reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 4-amino-1-benzyl-piperidine | 21.6 grams | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
solvent | methanol | 400 milliliters | CO | CH4O
product | 1-benzyl-4-phthalimidopiperidine | 26.5 grams | C(C1=CC=CC=C1)N1CCC(CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C20H20N2O2
